US05798344
Preparation of diethyl 4-(3-methyl-4(3H)-quinazolinon-2-yl)benzylphosphonate
A 5.9 g quantity of diethyl 4-(4-hydroxyquinazolin-2-yl)benzylphosphonate, 1.8 g of potassium tert-butoxide and 2.3 g of methyl iodide were suspended in 100 ml of anhydrous methanol and stirred with heating at 40° C. for 16 hours. After completion of the reaction, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: methylene chloride: methanol=100:1) and the crude crystals thus obtained were recrystallized from methylene chloride-n-hexane to provide 3.0 g of the title compound as colorless crystals.

reactant | diethyl 4-(4-hydroxyquinazolin-2-yl)benzylphosphonate | OC1=NC(=NC2=CC=CC=C12)C1=CC=C(CP(OCC)(OCC)=O)C=C1 | C19H21N2O4P
reactant | potassium tert-butoxide | 1.8 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 2.3 g | CI | CH3I
solvent | methanol | 100 ml | CO | CH4O
product | diethyl 4-(3-methyl-4(3H)-quinazolinon-2-yl)benzylphosphonate | 3.0 g | CN1C(=NC2=CC=CC=C2C1=O)C1=CC=C(CP(OCC)(OCC)=O)C=C1 | C20H23N2O4P
